US07678794B2
Synthesis of N-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-3-(2H-tetrazol-5-yl)-benzamide
Heat a mixture of N-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-3-cyano-benzamide (876 mg, 2.04 mmol), sodium azide (1.32 g, 20.4 mmol), and ammonium chloride (1.09 g, 20.4 mmol) in dimethylformamide (10 mL) at 110° C. overnight. Cool. Dilute with water (120 mL). Filter, and wash several times with water. Dry. Dissolve the residue in hot acetone (20 mL) and purify via chromatography, eluting with 1:1 hexanes:acetone with 1% acetic acid to afford the title compound as a light yellow powder (315 mg, 33%): 1H NMR (DMSO-d6) δ 0.89 (t, 3H), 1.51 (sextet, 2H), 2.50 (s, 3H), 2.63 (t, 2H), 5.29 (s, 2H), 6.74 (d, 1H), 7.21 (d, 1H), 7.42 (t, 1H), 7.71 (d, 1H), 7.74 (t, 1H), 7.78 (d, 1H), 7.98 (s, 1H), 8.15 (d, 1H), 8.24 (d, 1H), 8.62 (s, 1H), 10.55 (s, 1H), 12.85 (s, 1H); MS (APCI-neg mode) m/z (rel intensity) 470 (100).

reactant | N-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-3-cyano-benzamide | 2.04 mmol, 876 mg | C(C)(=O)C1=C(C(=C(OCC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C#N)=O)C=C1)CCC)O | C26H24N2O4
reactant | sodium azide | 20.4 mmol, 1.32 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 20.4 mmol, 1.09 g | [Cl-].[NH4+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 120 mL | O | H2O
product | N-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-3-(2H-tetrazol-5-yl)-benzamide | 315 mg, 33% | C(C)(=O)C1=C(C(=C(OCC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C=2N=NNN2)=O)C=C1)CCC)O | C26H25N5O4
